US04490527
B. 3-(Methylthio)Thieno[3,4-d]Isothiazole-1,1-Dioxide
To a mixture of 0.9 g. (0.0044 mole) of thieno[3,4-d]-isothiazol-3(2H)-thione-1,1-dioxide in 4 ml. of ethanol is added a solution of 0.35 g. (0.0044 mole) of 50% sodium hydroxide in 3 ml. of water. To this thick mixture is added 0.62 g. (0.0044 mole) of iodomethane. The mixture is heated under reflux for 5 minutes, and then filtered to give 0.35 g. of product. On cooling, a second crop of 0.1 g. of material is obtained. A small amount of the first crop is recrystallized from ethanol to afford an analytical sample, m.p. 184°-6°.

reactant | thieno[3,4-d]-isothiazol-3(2H)-thione-1,1-dioxide | 0.0044 mole | S1(NC(C=2C1=CSC2)=S)(=O)=O | C5H3NO2S3
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | 0.0044 mole | [OH-].[Na+]
reactant | iodomethane | 0.0044 mole | IC | CH3I
solvent | water | O | H2O
product | 3-(Methylthio)Thieno[3,4-d]Isothiazole-1,1-Dioxide | CSC1=NS(C=2C1=CSC2)(=O)=O | C6H5NO2S3
